US04657899
Ethyl 3-[2-(diethylphosphonomethyl)phenyl]-2-acetamido-2-carboethoxy-propanoate
To a solution of 0.43 g (18.8 mmol) Na in 50 mL of dry ethanol was added 4.09 g (18.8 mmol) of solid diethyl acetamidomalonate portionwise. This mixture was stirred at reflux under nitrogen for 2 h, then cooled to room temperature. Then, 6.05 g (18.8 mmol) of 2-(diethylphosphonomethyl)benzyl bromide in 40 mL of ethanol was added dropwise and the mixture stirred for 24 h. The salt which precipitated was removed by filtration and the solvent concentrated at reduced pressure to yield a viscous oil. This oil was chromatographed on a column of silica gel with ethyl acetate as eluant. The combined fractions were concentrated under reduced pressure to yield 6.67 g (79%) of the product as a clear oil. IR(neat): 1745.9, 1676.5, 1501.6, 1375.6, 1247.1, 1649.1, 969.4 cm-1. 1H NMR (CDCl3) δ 1.0-1.4 (m, 12H); 2.0 (s, 3H); 2.9 (s, 1H); 3.3 (s, 1H); 3.8-4.4 (m, 10H); 5.8-7.4 (m, 5H). Anal. Calcd. for C21H32NPO8 0.5H2O: C, 54.06; H, 6.92; N, 3.00. Found: C, 53.73; H, 7.11; N, 3.27.

reactant | diethyl acetamidomalonate | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 2-(diethylphosphonomethyl)benzyl bromide | 18.8 mmol, 6.05 g | C(C)OP(=O)(OCC)CC1=C(CBr)C=CC=C1 | C12H18BrO3P
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | Ethyl 3-[2-(diethylphosphonomethyl)phenyl]-2-acetamido-2-carboethoxy-propanoate | 6.67 g, 79% | C(C)OP(=O)(OCC)CC1=C(C=CC=C1)CC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C21H32NO8P
